US08076454B2
5-Ethyl-2,3-dihydro-benzo[1,4]dioxine-6-carboxylic acid N′-(1-tert-butyl-3,4,4-trimethyl-pent-2-enyl)-hydrazide (150 mg, 0.39 mmol) and 3,5-dimethoxy-4-methylbenzoyl chloride (83 mg, 0.39 mmol) were dissolved in 5 mL CH2Cl2. 5 mL of 25% K2CO3 were added, and the reaction mixture was stirred at room temperature overnight. The reaction was monitored by TLC. The phases were separated, adding additional CH2Cl2 and/or water as needed to aid manipulation. The CH2Cl2 layer was dried and solvent was removed in vacuo to provide 210 mg of crude product. This material was purified by silica gel column chromatography, eluting with a step gradient of 10-25% ethyl acetate in hexane to yield 3,5-dimethoxy-4-methyl-benzoic acid N-(1-tert-butyl-3,4,4-trimethyl-pent-2-enyl)-N′-(5-ethyl-2,3-dihydro-benzo[1,4]dioxine-6-carbonyl)-hydrazide RG115898 (83 mg, Rf=0.19 in 25% ethyl acetate in n-hexane, yield 38%). 1H NMR (400 MHz, DMSO-d6) δ (ppm): 10.19 (s, 1H), 6.75 (d, J=8.0 Hz, 1H), 6.69 (s, 2H), 6.61 (d, J=8.0 Hz, 1H), 5.43 (d, J=10.0 Hz, 1H), 5.41 (d, 14.4 Hz, 1H), 4.30-4.20 (m, 4H), 3.80 (s, 6H), 2.21-2.15 (m, 1H), 2.01 (s, 3H), 1.81 (m, 1H), 1.76-1.64 (m, 1H), 1.06 (s, 9H), 1.00 (s, 9H), 0.70 (t, J=7.6 Hz, 3H).

reactant | 5-Ethyl-2,3-dihydro-benzo[1,4]dioxine-6-carboxylic acid N′-(1-tert-butyl-3,4,4-trimethyl-pent-2-enyl)-hydrazide | 0.39 mmol, 150 mg | C(C)(C)(C)C(C=C(C(C)(C)C)C)NNC(=O)C1=C(C2=C(OCCO2)C=C1)CC | C23H36N2O3
reactant | 3,5-dimethoxy-4-methylbenzoyl chloride | 0.39 mmol, 83 mg | COC=1C=C(C(=O)Cl)C=C(C1C)OC | C10H11ClO3
reactant | K2CO3 | 5 mL | C(=O)([O-])[O-].[K+].[K+]
solvent | CH2Cl2 | 5 mL | C(Cl)Cl | CH2Cl2
product | 3,5-dimethoxy-4-methyl-benzoic acid N-(1-tert-butyl-3,4,4-trimethyl-pent-2-enyl)-N′-(5-ethyl-2,3-dihydro-benzo[1,4]dioxine-6-carbonyl)-hydrazide | yield 38% | C(C)(C)(C)C(C=C(C(C)(C)C)C)N(NC(=O)C1=C(C2=C(OCCO2)C=C1)CC)C(C1=CC(=C(C(=C1)OC)C)OC)=O | C33H46N2O6
